US06162809
16. 4-[3-(4-Phenyl-1-piperazinyl)propylthio]-2-[(4-pyridinylthio)methyl]pyridine
According to the procedure indicated in Example 7, reaction of 4-(3-chloropropylthio)-3-methyl-2-[(4-pyridinylthio)methyl]pyridine with 1-phenylpiperazine and potassium carbonate and subsequent chromatography on silica gel gives, after crystallization from diisopropyl ether, the title compound; m.p. from 210° C. (dec.); yield 79% of theory.

reactant | 4-(3-chloropropylthio)-3-methyl-2-[(4-pyridinylthio)methyl]pyridine | ClCCCSC1=C(C(=NC=C1)CSC1=CC=NC=C1)C | C15H17ClN2S2
reactant | 1-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 4-[3-(4-Phenyl-1-piperazinyl)propylthio]-2-[(4-pyridinylthio)methyl]pyridine | yield 79% | C1(=CC=CC=C1)N1CCN(CC1)CCCSC1=CC(=NC=C1)CSC1=CC=NC=C1 | C24H28N4S2
